US08865712B2
h) (R)-2-[(RS)-2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester
To a solution of 2-bromo-5-fluoro-4-[2-methyl-1-(2-nitro-benzenesulfonyl)-aziridin-2-yl]-pyridine (795 mg, 1.91 mmol) and (R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid ethyl ester (498 mg, 2.67 mmol) in DMF (8 ml, soln. predried over mol. sieves) was added NaH (99 mg of a 60% dispersion in mineral oil, 2.48 mmol) and the reaction mixture was stirred at rt for 3 h. The reaction mixture was quenched with aq. 1N HCl and diluted with H2O and TBME. The phases were separated and the aq. phase was twice extracted with TBME. The combined org. phases were washed with H2O, dried over Na2SO4, filtered and concentrated. Flash chromatography on silica gel (heptane:EtOAc 1:1) yielded the title compound (diastereomer mixture) as a colourless solid. HPLC RtH4=1.26 min; ESIMS: 602, 604 [(M+H)+]; 1H NMR (400 MHz, CDCl3): δ 7.99 (m, 1H), 7.95-7.93 (m, 1H), 7.79-7.61 (m, 4H), 6.94 (m, 1H), 4.45-4.33 (m, 2H), 3.94-3.81 (m, 2H), 1.85 (m, 3H), 1.61 (m, 3H), 1.40-1.34 (m, 3H).

reactant | 2-bromo-5-fluoro-4-[2-methyl-1-(2-nitro-benzenesulfonyl)-aziridin-2-yl]-pyridine | 1.91 mmol, 795 mg | BrC1=NC=C(C(=C1)C1(N(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C)F | C14H11BrFN3O4S
reactant | (R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid ethyl ester | 2.67 mmol, 498 mg | C(C)OC([C@@](C(F)(F)F)(C)O)=O | C6H9F3O3
reactant | NaH | [H-].[Na+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (R)-2-[(RS)-2-(2-Bromo-5-fluoro-pyridin-4-yl)-2-(2-nitro-benzenesulfonylamino)-propoxy]-3,3,3-trifluoro-2-methyl-propionic acid ethyl ester | C(C)OC([C@@](C(F)(F)F)(C)OCC(C)(NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=NC=C1F)Br)=O | C20H20BrF4N3O7S
